US05670505
To a stirred mixture of (2R)-1-(tert-butoxycarbonyl)-2-(1H-indol-3-yl-methyl)piperazine (250 mg) and potassium carbonate (165 mg) in dimethylformamide (1 ml) was added trans-cinnamoyl chloride (150 mg) at room temperature. The resulting mixture was stirred for 3 hours and then poured into water. Extraction with ethyl acetate followed by drying over magnesium sulfate and evaporation in vacuo gave a syrup, which was dissolved in dichloromethane (2 ml). A solution of 4N hydrogen chloride in dioxane solution (1 ml) was added to the solution at ice-bath temperature and the resulting mixture was stirred for 1 hour at room temperature. The reaction mixture was concentrated under reduced pressure. The residue was partitioned between ethyl acetate and aqueous saturated sodium bicarbonate solution. The organic layer was separated, washed with brine and dried over magnesium sulfate. Evaporation of the solvent in vacuo gave (3R)-1-(trans-cinnamoyl)-3-(1H-indol-3-yl-methyl)piperazine (166 mg).

reactant | (2R)-1-(tert-butoxycarbonyl)-2-(1H-indol-3-yl-methyl)piperazine | 250 mg | C(C)(C)(C)OC(=O)N1[C@@H](CNCC1)CC1=CNC2=CC=CC=C12 | C18H25N3O2
reactant | potassium carbonate | 165 mg | C([O-])([O-])=O.[K+].[K+]
reactant | trans-cinnamoyl chloride | 150 mg | C(\C=C\C1=CC=CC=C1)(=O)Cl | C9H7ClO
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dioxane | 1 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | (3R)-1-(trans-cinnamoyl)-3-(1H-indol-3-yl-methyl)piperazine | 166 mg | C(\C=C\C1=CC=CC=C1)(=O)N1C[C@H](NCC1)CC1=CNC2=CC=CC=C12 | C22H23N3O
